US06300368B1
N,N-diethyl-2-(4-aminophenoxy)ethylamine (4.00 g) was added into 2,6-dimethoxybenzoic acid chloride (4.20 g) in pyridine (40 ml) in an ice bath. After stirred for one hour at room temperature, the reaction mixture was concentrated under vacuum and residue was dissolved into chloroform (50 ml). The solution was washed with 1N sodium hydroxide aqueous solution followed by water and then saturated sodium chloride (50 ml, each). Solvent was distilled out and residue was purified by silica-gel column chromatography (chloroform:methanol=25:1) to obtain 4′-[2-(diethylamino)ethoxy]-2,6-dimethoxybenzanilide (5.01 g) as color-less crystal.

reactant | N,N-diethyl-2-(4-aminophenoxy)ethylamine | 4.00 g | C(C)N(CC)CCOC1=CC=C(C=C1)N | C12H20N2O
reactant | 2,6-dimethoxybenzoic acid chloride | 4.20 g | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 4′-[2-(diethylamino)ethoxy]-2,6-dimethoxybenzanilide | 5.01 g | C(C)N(CCOC1=CC=C(NC(C2=C(C=CC=C2OC)OC)=O)C=C1)CC | C21H28N2O4
